US07371869B2
To a solution of crude 2-tert-butoxycarbonylamino-3-(3-nitro-phenyl)-propionic acid ethyl ester (1.00 g , ≈2.96 mmol) in tetrahydrofuran (10 mL) was added 3M aqueous lithium hydroxide solution (3 mL, 9 mmol) and the mixture was stirred at ambient temperature overnight. The reaction mixture was concentrated to dryness, the residue taken up in water (20 mL) and extracted with ether (2×10 mL). The aqueous layer was filtered through Celite®, cooled in ice and adjusted to pH=2 with 0.1M aqueous hydrochloric acid. The mixture was then extracted with dichloromethane (3×15 mL), dried over sodium sulfate and concetrated in vacuo to give crude 2-tert-butoxycarbonylamino-3-(3-nitro-phenyl)-propionic acid as a pale yellow solid which was used without further purification (0.63 g, ≈69%).

reactant | 2-tert-butoxycarbonylamino-3-(3-nitro-phenyl)-propionic acid ethyl ester | ≈2.96 mmol, 1.00 g | C(C)OC(C(CC1=CC(=CC=C1)[N+](=O)[O-])NC(=O)OC(C)(C)C)=O | C16H22N2O6
reactant | lithium hydroxide | 9 mmol, 3M, 3 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-tert-butoxycarbonylamino-3-(3-nitro-phenyl)-propionic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=CC(=CC=C1)[N+](=O)[O-] | C14H18N2O6
